US07678801B2
4-(5-amino-methylphenyl)-8-(2,6-difluorophenyl)-2-(4-piperidinylamino)-pyrido[2,3-d]pyrimidin-7(8H)-one
The title compound was prepared as described in Example 2 from 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one and 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate.

reactant | 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one | NC=1C=CC(=C(C1)C=1C2=C(N=C(N1)S(=O)(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C21H16F2N4O3S
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | 4-(5-amino-methylphenyl)-8-(2,6-difluorophenyl)-2-(4-piperidinylamino)-pyrido[2,3-d]pyrimidin-7(8H)-one | NC=1C=CC(=C(C1)C=1C2=C(N=C(N1)NC1CCNCC1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C25H24F2N6O
